US07217723B2
2-Methoxy-7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide
To a solution of 2-bromo-7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide (the compound of Preparation Example 58) (80 mg) in methanol (3 mL) was added a solution of 28% sodium methoxide/methanol (0.8 mL). After stirring at room temperature for 3 hours, the reaction solution was poured into water, extracted with ethyl acetate and dried with anhydrous magnesium sulfate. The residue resulting from the removal of the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (58 mg) was obtained as a light brown candy-like substance.

reactant | 2-bromo-7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide | FC1=CC=C(C=C1)C(CN(S(=O)(=O)C=1C2=C(SC1Br)C(CCC2)=O)C)O | C17H17BrFNO4S2
reactant | sodium methoxide methanol | 0.8 mL | C[O-].[Na+].CO
reactant | water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 2-Methoxy-7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide | 58 mg | FC1=CC=C(C=C1)C(CN(S(=O)(=O)C=1C2=C(SC1OC)C(CCC2)=O)C)O | C18H20FNO5S2
